US06538152B1
To a stirred solution of methyl 2-benzyloxy-5-(2-hydroxyethyl)benzoate (1.43 g) in dichloromethane (20 ml) were added N,N-diisopropylethylamine (1.0 ml) and chloromethyl methyl ether (460 μl) under ice-cooling, and the mixture was stirred for 17 hours at room temperature. To the reaction mixture was added a saturated aqueous ammonium chloride solution, and the resulting mixture was extracted with dichloromethane. The extract was washed with brine and dried over anhydrous magnesium sulfate. After the solvent was removed under reduced pressure, purification of the residue by flash column chromatography on silica gel (eluent: hexane/ethyl acetate=4/3) gave methyl 2-benzyloxy-5-(2-methoxymethoxyethyl)benzoate (1.19 g).

reactant | methyl 2-benzyloxy-5-(2-hydroxyethyl)benzoate | 1.43 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1)CCO | C17H18O4
reactant | N,N-diisopropylethylamine | 1.0 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloromethyl methyl ether | 460 μl | COCCl | C2H5ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | methyl 2-benzyloxy-5-(2-methoxymethoxyethyl)benzoate | 1.19 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1)CCOCOC | C19H22O5
